US04210648
5,11-Dihydro-11-[(hexahydro-4-methyl-1H-1,4-diazepin-1-yl)acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride
8.6 gm of 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, 3.5 gm of sodium carbonate and 4.5 gm of hexahydro-1-methyl-1H-1, 4-diazepine were refluxed in 100 ml of ethanol for 2.5 hours. Then the hot mixture was suction-filtered, the alcohol was distilled off, and the residue was triturated with dioxane. The precipitated crystals were dissolved in ethanol and converted into the dihydrochloride by addition of concentrated hydrochloric acid. After recrystallization from 94% ethanol:

reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 8.6 gm | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | sodium carbonate | 3.5 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | hexahydro-1-methyl-1H-1, 4-diazepine | 4.5 gm | CN1CCNCCC1 | C6H14N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5,11-Dihydro-11-[(hexahydro-4-methyl-1H-1,4-diazepin-1-yl)acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride | Cl.Cl.CN1CCN(CCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C20H23N5O2.2ClH/c1-23-10-5-11-24(13-12-23)14-18(26)25-17-8-3-2-6-15(17)20(27)22-16-7-4-9-21-19(16)25;;/h2-4,6-9H,5,10-14H2,1H3,(H,22,27);2*1H
